US07485732B2
Step 1: Methyl azetidin-3-ylidene(3,5-difluorophenyl)acetate
To a solution of 0.405 g (1 mmol) of methyl (3,5-difluorophenyl)[1-(diphenylmethyl)azetidin-3-ylidene]acetate in 2 mL of dry THF was added 0.284 g (2 mmol) of 1-chloroethyl chloroformate and the solution was stirred at room temperature. After 1 h, the solution was concentrated and the residue was triturated with 2 mL of 10% ether-hexane. This was decanted and the solid residue was dissolved in methanol and heated to reflux for 6 h. The solution was concentrated to afford the title compound as the hydrochloride salt: Mass Spectrum: m/e=240 (M+1).

reactant | methyl (3,5-difluorophenyl)[1-(diphenylmethyl)azetidin-3-ylidene]acetate | 1 mmol, 0.405 g | FC=1C=C(C=C(C1)F)C(C(=O)OC)=C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21F2NO2
reactant | 1-chloroethyl chloroformate | 2 mmol, 0.284 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Methyl azetidin-3-ylidene(3,5-difluorophenyl)acetate | N1CC(C1)=C(C(=O)OC)C1=CC(=CC(=C1)F)F | C12H11F2NO2
